US08877741B2
2-Bromo-6-(1-methanesulfonyl-cyclopropyl)-pyridine
Under inert gas atmosphere 28.4 mL (56.8 mmol) of a sodium-bis-(trimethylsilyl)-amide solution in THF (c=2 mol/L) are chilled to −17° C. and dropwise charged with 2.00 g (11.3 mmol) 2-bromo-6-fluoropyridine. Afterwards 2.14 g (22.7 mmol) dimethyl sulfone are added and the reaction mixture is stirred at −17° C. for 1 h. The reaction is quenched by the addition of aq. sat.NaCl solution and extracted with EtOAc. The organic layer is dried over MgSO4, filtered and the solvent is removed in vacuo.

reactant | sodium-bis-(trimethylsilyl)-amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-bromo-6-fluoropyridine | 11.3 mmol, 2.00 g | BrC1=NC(=CC=C1)F | C5H3BrFN
reactant | dimethyl sulfone | 22.7 mmol, 2.14 g | CS(=O)(=O)C | C2H6O2S
reactant | THF | 2 mol/L | C1CCOC1 | C4H8O
product | 2-Bromo-6-(1-methanesulfonyl-cyclopropyl)-pyridine | BrC1=NC(=CC=C1)C1(CC1)S(=O)(=O)C | C9H10BrNO2S
